US07145012B2
Preparation of intermediate 2-(4-Chloro-phenyl)-5-cyclopentylaminomethyl-1-(2-fluoro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester (I-5f)
A solution of 2-(4-chloro-phenyl)-1-(2-fluoro-phenyl)-5-formyl-1H-imidazole-4-carboxylic acid ethyl ester I-5e-2 (1000 mg, 2.68 mmol), cyclopentylamine (251 mg, 2.95 mmol), NaBH(OAc)3 (796 mg, 3.76 mmol) in dichloroethane was stirred for 17 h at room temperature. The reaction was concentrated in vacuo and the residue was diluted with CHCl3. The organic solution was washed with sat'd aq. NaHCO3 and sat'd aq. NaCl, dried, and concentrated under vacuum. The crude residue was purified on SiO2-gel (Flash 40s) using a solvent gradient of 30% EtOAc/hexanes to 80% EtOAc/hexanes to give the desired product (I-5f) as a yellow oil (680 mg, 57%): +APCI MS (M+1) 442.2.

reactant | 2-(4-chloro-phenyl)-1-(2-fluoro-phenyl)-5-formyl-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1C=O)C1=C(C=CC=C1)F)C1=CC=C(C=C1)Cl | C19H14ClFN2O3
reactant | cyclopentylamine | 2.95 mmol, 251 mg | C1(CCCC1)N | C5H11N
reactant | NaBH(OAc)3 | 3.76 mmol, 796 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-(4-Chloro-phenyl)-5-cyclopentylaminomethyl-1-(2-fluoro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 680 mg, 57% | C(C)OC(=O)C=1N=C(N(C1CNC1CCCC1)C1=C(C=CC=C1)F)C1=CC=C(C=C1)Cl | C24H25ClFN3O2
